US07964643B2
2′-Methoxybiphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide (ABD-267)
Using a method analogous to that described in Example 40, 4-bromophenyl-sulfonic acid-(5-hydroxypentyl)-amide and 2-methoxyphenyl boronic acid were reacted to give the title compound as a clear oil. δC (DMSO, 62.9 MHz): 22.7, 29.0, 32.0, 42.7, 55.6, 60.6, 115.5, 121.4, 125.3, 126.1, 128.2, 129.8, 130.2, 138.8, 142.1 and 156.1.

reactant | 4-bromophenyl-sulfonic acid-(5-hydroxypentyl)-amide | OCCCCCNS(=O)(=O)C1=CC=C(C=C1)Br | C11H16BrNO3S
reactant | 2-methoxyphenyl boronic acid | COC1=C(C=CC=C1)B(O)O | C7H9BO3
product | 2′-Methoxybiphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide | OCCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)OC | C18H23NO4S
